Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Complex chronic lower back wound
 
Major Surgical or Invasive Procedure:
Excision of a complex back wound 75 cm2 with adjacent tissue 
transfer, complex, greater than 30 cm2.

 
History of Present Illness:
___ is a ___ woman with T6 paraplegia and chronic 
nonhealing lower back wound.  She has undergone numerous 
previous procedures, most recently VAC therapy which has made 
the wound somewhat smaller but has failed to close
completely. She is brought to the operating room at this time 
for excision with either split-thickness skin grafting or 
adjacent tissue transfer. The risks and benefits have been 
reviewed with ___ on multiple occasions including the day
of surgery. She understands these and is willing to proceed.

Patient also reports recently having a UTI diagnosed this past 
___.  She was started on ciprofloxacin at that time.  Preop 
she denies any urinary complaints.  No fevers/chills/sweats.  

 
Past Medical History:
-T6 paraplegia
-Muscle spasms
 
Social History:
___
Family History:
NC
 
Physical Exam:
AF VSS
Gen: NAD, comfortable
Lungs: CTAB
Chest: RRR. no m
Abd: obese pannus, soft, NT/ND
Back: 12x6cm horizontal linear wound with fibrotic skin edges; 
no drainage or erythema; granulation tissue present at base of 
wound.  
Ext: no c/c/e
 
Pertinent Results:
___ 06:10AM BLOOD WBC-8.7 RBC-3.84* Hgb-9.7*# Hct-30.2*# 
MCV-79*# MCH-25.2* MCHC-32.0 RDW-16.7* Plt ___
___ 06:10AM BLOOD UreaN-15 Creat-0.4 Na-139 K-4.7
___ 06:10AM BLOOD Mg-1.8
 
Brief Hospital Course:
Patient underwent closure of lower back wound on ___.  Please 
see Dr. ___ note for details.  Patient tolerated 
the procedure well, transferred to the PACU and then to floor in 
stable condition.  Post-operatively patient was started on 
prophylactic antibiotic coverage with vancomycin (h/o MRSA).  A 
full 7 day course of ciprofloxacin was also continued.  Pain 
well controlled with IV and then PO antibiotics.  Foley was 
inserted intraoperatively and continued to discharge.  Patient 
at baseline self caths for chronic urinary retention.  Bedrest 
with strict bed turning and use of decub bed was employed to 
reduce pressure to back wound.  Incision remained intact during 
hospital stay, but she did have a small amount of serosanguinous 
drainage at the corners of incision by POD6.  Wound otherwise 
was stable without specific signs of breakdown.  Patient was 
afebrile with stable vital signs, urinating appropriately and 
tolerating a regular diet prior to discharge.  She is being sent 
home today in good condition.  She will receive ___ care for 
wound care.  Her foley will be removed by ___ service at home.  
She will follow up with Dr. ___ in 1 week for a wound check.  
She is being sent home on a 1 week course of Bactrim DS.  
 
Medications on Admission:
gabapentin, baclofen, ciprofloxacin
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Baclofen 10 mg Tablet Sig: Four (4) Tablet PO QID (4 times a 
day).  
3. Gabapentin 300 mg Capsule Sig: Three (3) Capsule PO QID (4 
times a day).  
4. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain: Do not drive or operate 
heavy machinery.
Disp:*40 Tablet(s)* Refills:*0*
5. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 7 days.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lower back wound

 
Discharge Condition:
Good

 
Discharge Instructions:
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
* Please resume all regular home medications and take any new 
meds as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.

 
Followup Instructions:
___